US08349880B2
Methyl 3-methoxy-4-(3-methyl-1H-1,2,4-triazol-1-yl)phenylcarbamimidothioate, hydroiodide (0.250 g, 0.617 mmol), from preparation F) and 6-chloro-2-(4-(methylsulfonyl)phenyl)hexanoic acid (0.282 g, 0.925 mmol, from preparation AAL) were coupled and then reacted with hydrazine (0.077 mL, 2.47 mmol) using a procedure analogous to Step A of Example 13. After an aqueous workup, 5-(5-chloro-1-(4-(methylsulfonyl)phenyl)pentyl)-N-(3-methoxy-4-(3-methyl-1H-1,2,4-triazol-1-yl)phenyl)-1H-1,2,4-triazol-3-amine was obtained as a brown residue. The crude product was used in the next step without purification. LC-MS (M+H)+ 530.1.

reactant | Methyl 3-methoxy-4-(3-methyl-1H-1,2,4-triazol-1-yl)phenylcarbamimidothioate, hydroiodide | 0.617 mmol, 0.250 g | I.COC=1C=C(C=CC1N1N=C(N=C1)C)NC(=N)SC
reactant | 6-chloro-2-(4-(methylsulfonyl)phenyl)hexanoic acid | 0.925 mmol, 0.282 g | ClCCCCC(C(=O)O)C1=CC=C(C=C1)S(=O)(=O)C | C13H17ClO4S
reactant | hydrazine | 2.47 mmol, 0.077 mL | NN | H4N2
product | 5-(5-chloro-1-(4-(methylsulfonyl)phenyl)pentyl)-N-(3-methoxy-4-(3-methyl-1H-1,2,4-triazol-1-yl)phenyl)-1H-1,2,4-triazol-3-amine | ClCCCCC(C1=CC=C(C=C1)S(=O)(=O)C)C1=NC(=NN1)NC1=CC(=C(C=C1)N1N=C(N=C1)C)OC | C24H28ClN7O3S
